US04215220
Reaction of imidazole and N-(3-chloro-2-hydroxypropyl)-4-chloroaniline [Current Sci. (India) 4, 142-4 (1959)] yields 1-[3-(4-chloroanilino)-2-hydroxypropyl]-imidazole, M.P. 123°-125° C., which is in turn reacted with 2,4-dichlorobenzyl chloride to yield 1-[3-(4-chloroanilino)-2-(2,4-dichlorobenzyloxy)-propyl]-imidazole; M.P. of oxalate salt is 134°-135° C.; M.P. of hydrochloride salt is 161°-163° C.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | N-(3-chloro-2-hydroxypropyl)-4-chloroaniline | ClCC(CNC1=CC=C(C=C1)Cl)O | C9H11Cl2NO
product | 1-[3-(4-chloroanilino)-2-hydroxypropyl]-imidazole | ClC1=CC=C(NCC(CN2C=NC=C2)O)C=C1 | C12H14ClN3O
